US08058441B2
(b). 1-Acetyl-1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester
A mixture of 1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester (2.3 g) and a catalytic amount of N,N-dimethylaminopyridine in acetic anhydride (60 ml) was stirred at 100° C. for 18 h. The reaction mixture was concentrated in vacuo, the residue was dissolved in ethyl acetate and washed with water and brine. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silicagel in heptane/ethyl acetate=1/11/9 (v/v) as eluent.

reactant | 1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester | 2.3 g | COC(=O)C=1C=C2C(=CC(NC2=CC1)(C)C)C | C14H17NO2
reactant | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=CC(N(C2=CC1)C(C)=O)(C)C)C | C16H19NO3
